US04882085
53 g of dry pyridine and 22.2 g of 2-octyloxypropanol were added into a four-necked flask and cooled with NaCl-ice. 35.4 g of p-toluenesulfonic acid chloride was added little by little, and after the reaction was carried out for 4 hours, the mixture was left standing at room temperature for 18 hours. The reaction product was added into 500 g of ice-cooled 6% HCl aq. and the mixture was extracted with 500 ml of benzene and dried over anhydrous Na2SO4, followed by evaporation of benzene, to give 40 g of (2'-octyloxypropyl) p-toluenesulfonate as an oily product.

reactant | 2-octyloxypropanol | 22.2 g | C(CCCCCCC)OC(CO)C | C11H24O2
reactant | p-toluenesulfonic acid chloride | 35.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 53 g | N1=CC=CC=C1 | C5H5N
product | (2'-octyloxypropyl) p-toluenesulfonate | 40 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)OCCCCCCCC)C | C18H30O4S
